US07563805B2
tert-Butyl(3S)-3-hydroxymethyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate
To a solution of tert-butyl 5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate (4.00 g, 13.8 mmol) in N,N-dimethylformamide (40 mL), paraformaldehyde (0.830 g, 27.7 mmol) and sodium hydride (0.600 g, 55% in oil, 13.8 mmol) were added at room temperature, and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture, 10% aqueous solution of citric acid (150 mL) was added in an ice bath, and the solution was extracted with ethyl acetate (300 mL×2). The organic layer was washed with water (100 mL×2) and saturated aqueous solution of sodium chloride (100 mL), and dried with anhydrous sodium sulfate. After the filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (elusion by hexane:ethyl acetate, 7:3→1:4) to obtain 1.03 g (23%) of the title compound as a white solid.

reactant | tert-butyl 5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 13.8 mmol, 4.00 g | O=C1CC(CN1[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C17H23NO3
reactant | paraformaldehyde | 27.7 mmol, 0.830 g | C=O | CH2O
reactant | sodium hydride | 13.8 mmol, 0.600 g | [H-].[Na+]
reactant | citric acid | 150 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | tert-Butyl(3S)-3-hydroxymethyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 1.03 g, 23% | OC[C@]1(CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25NO4
